US04780477
By using 1-(2-diisopropylaminoethyl)-5-methylisatin and 4-benzylsemicarbazide hydrochloride, a method analogous to that described in Example 6 was carried out to obtain (E)-1-(2-diisopropylaminoethyl)5-methylisatin 3-(4-benzylsemicarbazone) having a melting point of 159°-160° C. (yield: 74.6%, recrystallizing solvent: ethanol).

reactant | 1-(2-diisopropylaminoethyl)-5-methylisatin | C(C)(C)N(CCN1C(=O)C(=O)C2=CC(=CC=C12)C)C(C)C | C17H24N2O2
reactant | 4-benzylsemicarbazide hydrochloride | Cl.C(C1=CC=CC=C1)NC(NN)=O
product | (E)-1-(2-diisopropylaminoethyl)5-methylisatin 3-(4-benzylsemicarbazone) | yield: 74.6% | C(C1=CC=CC=C1)NC(N\N=C/1\C(N(C2=CC=C(C=C12)C)CCN(C(C)C)C(C)C)=O)=O | C25H33N5O2
